US08604211B2
Preparation of (E)-N-methyl-3-(methylthio)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)acrylamide (Compound 21)
N-Chlorosuccinimide (100 mg, 0.75 mmol, 1.1 equiv) was added to a stirred solution of N-methyl-3-(methylthio)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide (200 mg, 0.68 mmol, 1.0 equiv) in benzene (3.3 mL) at 23° C. The resulting cloudy yellow solution was stirred at 23° C. for 30 m. Triethylamine (210 μL, 1.5 mmol, 2.2 equiv) was added and the resulting bright yellow mixture was stirred at 23° C. for 24 h. The reaction mixture was directly subjected to silica gel column chromatography (ethyl acetate) to afford the title compound as a tan powder (80 mg, 40%): 1H NMR (300 MHz, DMSO-d6) δ 9.14 (br s, 1H), 8.67 (m, 1H), 8.27 (m, 1H), 8.11 (d, J=14 Hz, 1H), 7.41 (m, 1H), 6.30 (d, J=14 Hz, 1H), 3.91 (s, 3H), 2.46 (s, 3H); ESIMS m/z 293 ([M+H]+).

reactant | N-Chlorosuccinimide | 0.75 mmol, 100 mg, 1.1 equiv | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-methyl-3-(methylthio)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide | 0.68 mmol, 200 mg, 1.0 equiv | CN(C(CCSC)=O)C=1SC(=NN1)C=1C=NC=CC1 | C12H14N4OS2
reactant | Triethylamine | 1.5 mmol, 210 μL, 2.2 equiv | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 3.3 mL | C1=CC=CC=C1 | C6H6
product | (E)-N-methyl-3-(methylthio)-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)acrylamide | 80 mg, 40% | CN(C(\C=C\SC)=O)C=1SC(=NN1)C=1C=NC=CC1 | C12H12N4OS2
